US06573273B1
A solution of propyl isothiocyanate (0.78 g, 7.72 mmol) in chloroform (5 mL) was added at ambient temperature to a solution of 1-(4-aminobutyl)-2-phenyl-1H-imidazo[4,5-c]quinolin-4-amine (0.256 g, 7.72 mmol) in a mixture of chloroform (25 mL) and pyridine (5 mL). The reaction mixture was maintained at ambient temperature over the weekend. The reaction was quenched with ethanol and then concentrated under vacuum to provide a pale orange syrup. This material was purified by flash chromatography (silica gel, eluting with 10% methanol in dichloromethane). The pure fractions were combined and concentrated under vacuum to provide 0.22 g of N-[4-(4-amino-2-phenyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-N′-propylthiourea as a white solid, m.p. 113-116° C. Mass spec M+1=433.2.

reactant | propyl isothiocyanate | 7.72 mmol, 0.78 g | C(CC)N=C=S | C4H7NS
reactant | 1-(4-aminobutyl)-2-phenyl-1H-imidazo[4,5-c]quinolin-4-amine | 7.72 mmol, 0.256 g | NCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)C2=CC=CC=C2 | C20H21N5
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 25 mL | C(Cl)(Cl)Cl | CHCl3
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | N-[4-(4-amino-2-phenyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-N′-propylthiourea | 0.22 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCNC(=S)NCCC)C2=CC=CC=C2 | C24H28N6S
